US09422290B2
N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine
4-[6-(Benzyl-methyl-amino)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (4.08 g; 9.04 mmol) was dissolved in 20.0 ml of DCM and treated with 5.0 ml TFA. It was stirred at ambient temperature for 1 hour. The solution was concentrated under reduced pressure and the residue taken up in DCM and washed with half concentrated NaHCO3 solution. The organic phase was dried over MgSO4 and concentrated.

reactant | 4-[6-(Benzyl-methyl-amino)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 9.04 mmol, 4.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=2N(N=C(C1)N(C)CC1=CC=CC=C1)C(=NN2)C | C24H33N7O2
reactant | TFA | 5.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20.0 ml | C(Cl)Cl | CH2Cl2
product | N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCNCC2)C | C19H25N7
